US07319109B2
b) 3-(2,6-Dichlorophenyl)-5-isopropyl-4-[(3-methyl-4-nitrophenoxy)methyl]-isoxazole.
A solution of [3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methanol (500 mg, 1.79 mmol) in dimethylformamide (6 mL) at 0° C. was treated with sodium hydride (60% dispersion in oil, 72 mg, 1.8 mmol) and was maintained for 15 minutes before the addition of 5-fluoro-2-nitrotoluene (182 μL, 1.5 mmol). The reaction was then allowed to stir at ambient temperature for 16 h. The product was extracted by partitioning the mixture in diethyl ether (50 mL) and water (50 mL). The aqueoues phase was extracted with diethyl ether (3×50 mL) then the organics were combined and washed with brine (50 mL), dried over anhydrous magnesium sulfate, filtered and and concentrated to yield a crude oil. The product was purified by column chromatography on silica gel eluting with 20% ethyl acetate/hexanes. Yield=379 mg (60%) of 3-(2,6-dichlorophenyl)-5-isopropyl-4-[(3-methyl 4nitrophenoxy)methyl]-isoxazole.

reactant | [3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methanol | 1.79 mmol, 500 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CO)C(C)C | C13H13Cl2NO2
reactant | sodium hydride | 1.8 mmol, 72 mg | [H-].[Na+]
reactant | 5-fluoro-2-nitrotoluene | 1.5 mmol, 182 μL | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 3-(2,6-Dichlorophenyl)-5-isopropyl-4-[(3-methyl-4-nitrophenoxy)methyl]-isoxazole | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)[N+](=O)[O-])C)C(C)C | C20H18Cl2N2O4
